US07618996B2
Preparation of Intermediate 7-{2,6-Difluoro-4-[(3-methyl-butylamino)-methyl]-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one (I-1c-3)
4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzaldehyde (I-1b-2: 1.0 g) and 3-methyl-butylamine (0.31 g) were combined in 1,2-dichloroethane (25 mL). After stirring at ambient temperature for 1 hour, sodium triacetoxyborohydride (3.3 g) was added to the solution. After stirring overnight, the reaction mixture was treated with an aqueous 2 N potassium hydroxide solution, the organic phase was separated, dried over magnesium sulfate, filtered, and evaporated to provide the title compound (I-1c-3).

reactant | 4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzaldehyde | 1.0 g | CC1(OC2=C(C(O1)=O)C=CC(=C2)OC2=C(C=C(C=O)C=C2F)F)C | C17H12F2O5
reactant | 3-methyl-butylamine | 0.31 g | CC(CCN)C | C5H13N
reactant | sodium triacetoxyborohydride | 3.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium hydroxide | 2 N | [OH-].[K+]
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | 7-{2,6-Difluoro-4-[(3-methyl-butylamino)-methyl]-phenoxy}-2,2-dimethyl-benzo[1,3]dioxin-4-one | FC1=C(OC2=CC3=C(C(OC(O3)(C)C)=O)C=C2)C(=CC(=C1)CNCCC(C)C)F | C22H25F2NO4
